US03975375
C. N-phenoxycarbonyl-imidazolid-2-on: ##SPC41##
12.7 parts by weight of sodium phenolate were dissolved in 120 parts by volume of 80% strength tetrahydrofurane and the solution was adjusted to pH = 8. 14.9 parts by weight of N-chlorocarbonyl-imidazolid-2-one were now introduced while stirring and keeping the pH value constant at 8 by simultaneous addition of triethylamine. The mixture was further stirred until the pH remained constant even without addition of triethylamine. 100 parts by volume of water were now added, the tetrahydrofurane was stripped off in vacuo, the residue was adjusted to pH = 10 with sodium hydroxide solution, and the solution was extracted with ethyl acetate. The organic solution was washed with water, dried over MgSO4 and evaporated and the residue was dried under an oil pump at 60°C for 1 hour and recrystallized from acetone.

reactant | sodium phenolate | C1(=CC=CC=C1)[O-].[Na+]
reactant | N-chlorocarbonyl-imidazolid-2-one | ClC(=O)N1C(NCC1)=O | C4H5ClN2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-phenoxycarbonyl-imidazolid-2-on | O(C1=CC=CC=C1)C(=O)N1C(NCC1)=O | C10H10N2O3
